US20010007873A1
Under a N2 atmosphere in 30 mL of anhydrous DMF was added 3.00 g (9.7 mmol) of 2-benzyloxy-5-bromo-4-methoxyphenol. To this solution was added 1.75 g (11.60 mmol) of t-butyl-dimethylsilyl chloride and 1.65 g (24.3 mmol) of imidazole. The reaction mixture was stirred at ambient temperature for 18 hours. and quenched with 600 mL of 5% NaHCO3. The resultant solution was extracted with hexane (4×300 mL). The combined extracts were washed with brine (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield 2.65 g (64%) of 2-benzyloxy-5-bromo-1-t-butyldimethylsilyloxy4-methoxybenzene.

reactant | 2-benzyloxy-5-bromo-4-methoxyphenol | 9.7 mmol, 3.00 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)Br)O | C14H13BrO3
reactant | t-butyl-dimethylsilyl chloride | 11.60 mmol, 1.75 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 24.3 mmol, 1.65 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-benzyloxy-5-bromo-1-t-butyldimethylsilyloxy4-methoxybenzene | 2.65 g, 64% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)Br)O[Si](C)(C)C(C)(C)C | C20H27BrO3Si
